US08877780B2
To a stirred mixture of 3-(5-Aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione hydrochloride (1.00 g, 3.20 mmol) and 3-(trifluoromethyl)benzoyl chloride (0.67 g, 3.20 mmol) in N,N-dimethylformamide (25 mL), was added triethylamine (0.90 mL, 6.40 mmol) at room temperature under nitrogen. After 1 h, the solvent was removed in vacuo and the residue was dissolved in ethyl acetate (100 mL). The ethyl acetate layer was washed with 1N aq. HCl (2×100 mL) and water (100 mL), then dried (MgSO4) and concentrated in vacuo to give N-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-2-trifluoromethyl-benzamide as an off-white solid (0.61 g, 43% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 30/70 CH3CN/0.1% H3PO4, 4.89 min (97.35%); mp: 303-305° C.; 1H NMR (DMSO-d6) δ 1.93-2.11 (m, 1H), 2.31-2.46 (m, 1H), 2.55-2.71 (m, 1H), 2.83-3.03 (m, 1H), 4.33 (d, J=17.4 Hz, 1H), 4.47 (d, J=17.4 Hz, 1H), 4.56 (d, J=5.9 Hz, 2H), 5.12 (dd, J=5.0, 13.1 Hz, 1H), 7.49 (d, J=7.7 Hz, 1H), 7.54-7.87 (m, 6H), 9.15 (t, J=5.9 Hz, 1H), 10.99 (s, 1H); 13C NMR (DMSO-d6) δ 22.49, 31.21, 42.61, 47.13, 51.59, 122.14, 122.94, 123.61 (q, J=272 Hz), 125.94 (q, J=31.2 Hz), 126.25 (q, J=4.7 Hz), 127.13, 128.61, 129.82, 130.47, 132.48, 136.18, 142.38, 143.35, 167.16, 167.92, 171.03, 172.88; LCMS: MH=446; Anal Calcd for C22H18N3O4F3+0.3H2O: C, 58.62; H, 4.16; N, 9.32. Found: C, 58.60; H, 3.82; N, 9.20.

reactant | 3-(5-Aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione hydrochloride | 3.20 mmol, 1.00 g | Cl.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | 3-(trifluoromethyl)benzoyl chloride | 3.20 mmol, 0.67 g | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
reactant | triethylamine | 6.40 mmol, 0.90 mL | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | N-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-2-trifluoromethyl-benzamide | 0.61 g, 43% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1)CNC(C1=C(C=CC=C1)C(F)(F)F)=O)=O)=O | C22H18F3N3O4
